US06956049B1
N-[(Dimethylamino)methylene]-cinnamamide (2.0 g, 10 mmol) was added to a mixture of acetic acid (20 mL) and methylhydrazine (0.6 mL, 11 mmol). The mixture was heated to 90° C. for 2 h. The cooled mixture was concentrated in vacuo, and made basic (pH 9) with solid K2CO3. The aqueous residue was partitioned between ethyl acetate and water, the organics were dried over Na2SO4, and concentrated in vacuo. The resultant powder was recrystallized from a minimum of boiling Ethyl acetate. The collected solids were triturated and washed with ethyl acetate to afford 1-methyl-5-[(E)-2-phenylethenyl]-1H-1,2,4-triazole (0.9 g, 49% yield) as a pale yellow powder. M.p. 67–70° C. from Ethyl acetate. 1H NMR (CDCl3, 300 MHz) δ 7.88 (s, 1H), 7.73 (d, J=16 Hz, 1H), 7.57 (m, 2H), 7.39 (m, 3H), 6.92 (d, J=16 Hz, 1H), 3.96 (s, 3H).

reactant | N-[(Dimethylamino)methylene]-cinnamamide | 10 mmol, 2.0 g | CN(C)C=NC(C=CC1=CC=CC=C1)=O | C12H14N2O
reactant | methylhydrazine | 11 mmol, 0.6 mL | CNN | CH6N2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 1-methyl-5-[(E)-2-phenylethenyl]-1H-1,2,4-triazole | 0.9 g, 49% yield | CN1N=CN=C1\C=C\C1=CC=CC=C1 | C11H11N3
